US07582803B2
(1-Methyl-1H-imidazol-2-yl)(4-(tetrahydro-2H-pyran-2-yloxy)phenyl)methanol (M12.1).
4-(2-Tetrahydro-2H-pyranoxy)phenylmagnesium bromide (0.5 M in THF, 160 mL, 80 mmol) was added slowly to a solution of 1-methyl-2-imidazolecarboxaldehyde (8 g, 72.7 mmol) in THF (100 mL) via syringe at −78° C. The reaction mixture was stirred at this temperature for 3 hours and quenched with saturated NH4Cl (aq). The mixture was extracted with EtOAc (2×100 mL), and the combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to afford M12.1 as a colorless oil (21 g), which was used directly in the next step.

reactant | 4-(2-Tetrahydro-2H-pyranoxy)phenylmagnesium bromide | 80 mmol, 0.5 M, 160 mL | O1C(CCCC1)OC1=CC=C(C=C1)[Mg]Br
reactant | 1-methyl-2-imidazolecarboxaldehyde | 72.7 mmol, 8 g | CN1C(=NC=C1)C=O | C5H6N2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1H-imidazol-2-yl)(4-(tetrahydro-2H-pyran-2-yloxy)phenyl)methanol | 21 g | CN1C(=NC=C1)C(O)C1=CC=C(C=C1)OC1OCCCC1 | C16H20N2O3
